*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e+00[uF]/25[V]
* Murata P/N :GRM155R61E105KE11
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61E105KE11 Port1 Port2
C01 Port1 N01 7.48e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.41e-10
R03 N02 N03 8.92e-03
C04 N03 N04 2.93e-05
R04 N03 N04 1.02e+02
C05 N04 N05 3.72e-05
R05 N04 N05 9.82e+00
C06 N05 N06 3.51e-05
R06 N05 N06 1.33e+00
C07 N06 N07 3.30e-05
R07 N06 N07 1.92e-01
C08 N07 N08 2.73e-05
R08 N07 N08 3.47e-02
C09 N08 N09 2.22e-05
R09 N08 N09 8.83e-03
L10 N09 N10 2.15e-11
R10 N09 N10 1.86e-01
L11 N10 N11 2.78e-11
R11 N10 N11 1.02e-01
L12 N11 N12 1.31e-10
R12 N11 N12 3.35e-02
C13 N12 N13 3.70e-06
L13 N12 N13 2.02e-11
R13 N12 N13 4.03e-03
C14 N13 N14 1.78e-06
L14 N13 N14 2.38e-11
R14 N13 N14 5.17e-03
C15 N14 Port2 7.60e-12
L15 N14 Port2 3.96e-11
R15 N14 Port2 1.09e+01
.ENDS GRM155R61E105KE11
